US07531532B2
4-(4-Amino-2-fluorophenoxy)-6-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonylamino}pyrimidine
4-(2-Fluoro-4-nitrophenoxy)-6-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonylamino}pyrimidine (145 mg) was dissolved in tetrahydrofuran (20 ml). After adding 20% palladium hydroxide-carbon (100 mg), the mixture was stirred overnight under a hydrogen atmosphere. The catalyst was filtered and washed with tetrahydrofuran. The filtrate and the washings were combined and concentrated under reduced pressure, and the resultant residue was dried under reduced pressure to provide the title compound (134 mg, 99%) as a pale yellow oil.

reactant | 4-(2-Fluoro-4-nitrophenoxy)-6-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonylamino}pyrimidine | 145 mg | FC1=C(OC2=NC=NC(=C2)NC(=O)N2CCN(CC2)C2CCN(CC2)C)C=CC(=C1)[N+](=O)[O-] | C21H26FN7O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | palladium hydroxide carbon | 100 mg | [OH-].[Pd+2].[OH-].[C]
product | 4-(4-Amino-2-fluorophenoxy)-6-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonylamino}pyrimidine | 134 mg, 99% | NC1=CC(=C(OC2=NC=NC(=C2)NC(=O)N2CCN(CC2)C2CCN(CC2)C)C=C1)F | C21H28FN7O2
